US07858624B2
To a slurry of 60% NaH in oil (0.75 g, 18.7 mmol) in THF (30 mL) was added a solution of (R)-tert-butyl 2-((S)-(6-fluoro-3′-methylbiphenyl-2-yl)(hydroxy)methyl)morpholine-4-carboxylate (2.5 g, 6.23 mmol) in THF (20 mL) dropwise at and then the reaction mixture was stirred for about 1 h at rt. A solution of ethyl 3-bromopropionate (1.55 g, 9.35 mmol) in THF (20 mL) was added dropwise while the temperature was maintained at −15 to −5° C. The mixture was allowed to warm slowly to rt and stirred for ˜2 h until the reaction was complete by tlc analysis. The reaction was cooled in an ice bath, quenched with satd aq NH4Cl (120 mL) and extracted with EtOAc. The combined organic extracts were washed with brine, dried over NaSO4, concentrated and purified by flash chromatography to afford (R)-tert-butyl 2-((S)-(2-ethoxy-2-oxoethoxy)(6-fluoro-3′-methylbiphenyl-2-yl)methyl)morpholine-4-carboxylate (570 mg, 19%). MS (E/Z): 488 (M+H+)

reactant | NaH | [H-].[Na+]
reactant | (R)-tert-butyl 2-((S)-(6-fluoro-3′-methylbiphenyl-2-yl)(hydroxy)methyl)morpholine-4-carboxylate | 6.23 mmol, 2.5 g | FC1=CC=CC(=C1C1=CC(=CC=C1)C)[C@@H]([C@H]1CN(CCO1)C(=O)OC(C)(C)C)O | C23H28FNO4
reactant | ethyl 3-bromopropionate | 9.35 mmol, 1.55 g | BrCCC(=O)OCC | C5H9BrO2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (R)-tert-butyl 2-((S)-(2-ethoxy-2-oxoethoxy)(6-fluoro-3′-methylbiphenyl-2-yl)methyl)morpholine-4-carboxylate | 570 mg, 19% | C(C)OC(CO[C@H]([C@H]1CN(CCO1)C(=O)OC(C)(C)C)C1=C(C(=CC=C1)F)C1=CC(=CC=C1)C)=O | C27H34FNO6
